US08389511B2
1-(4-Methoxybutyl)-3,3-dimethyl-2-oxoindoline-6-carboxylic acid
To methyl 1-(4-methoxybutyl)-3,3-dimethyl-2-oxoindoline-6-carboxylate (480 mg) were added 2N aqueous NaOH solution (5 ml), MeOH (5 ml), and THF (5 ml), and the mixture was stirred at 65° C. for one hour. After the reaction was complete, the solvent was concentrated, and to the resultant was added dropwise 2N aqueous hydrochloric acid solution. The precipitated crystals were extracted with ethyl acetate, and this ethyl acetate solution was washed with water and an aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated. The obtained residue (400 mg) was used in the subsequent reaction without further treatment.

reactant | methyl 1-(4-methoxybutyl)-3,3-dimethyl-2-oxoindoline-6-carboxylate | 480 mg | COCCCCN1C(C(C2=CC=C(C=C12)C(=O)OC)(C)C)=O | C17H23NO4
reactant | NaOH | 2N, 5 ml | [OH-].[Na+]
reactant | MeOH | 5 ml | CO | CH4O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-Methoxybutyl)-3,3-dimethyl-2-oxoindoline-6-carboxylic acid | COCCCCN1C(C(C2=CC=C(C=C12)C(=O)O)(C)C)=O | C16H21NO4
